US07776847B2
The crude N1-(5-Phenylbenzo[d]isothiazol-3-yl)propane-1,3-diamine mixture (˜100 mg, 0.20 mmol) was dissolved in anhydrous methylene chloride with triethylamine (0.3 mL, 0.24 mmol). The mixture was cooled in an ice-bath under nitrogen, then a solution of 4-butoxybenzoyl chloride (51 mg, 0.24 mmol) was added dropwise. After the addition was completed the ice-bath was removed and the mixture was stirred at room temperature overnight. The reaction mixture was diluted with methylene chloride and then washed successively with saturated sodium bicarbonate solution and brine. The organic solution was dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The resulting residue was purified by prep-scale reverse phase high performance liquid chromatography to yield 4-butoxy-N-(3-(5-phenylbenzo[d]isothiazol-3-ylamino)propyl) benzamide (13 mg). 1H NMR (300 MHz, DMSO-d6): 8.23 (s, 1H), 8.17 (t, 1H), 7.98 (d, 1H), 7.76-7.82 (m, 4H), 7.50 (t, 3H), 7.37-7.40 (m, 1H), 6.97 (d, 2H), 4.00 (t, 2H), 3.50 (q, 2H), 3.39 (q, 2H), 1.90-2.00 (m, 2H), 1.62-1.78 (m, 2H), 1.40-1.49 (m, 2H), 0.96 ppm (t, 3H).

reactant | N1-(5-Phenylbenzo[d]isothiazol-3-yl)propane-1,3-diamine | 0.20 mmol, ˜100 mg | C1(=CC=CC=C1)C=1C=CC2=C(C(=NS2)NCCCN)C1 | C16H17N3S
reactant | triethylamine | 0.24 mmol, 0.3 mL | C(C)N(CC)CC | C6H15N
reactant | 4-butoxybenzoyl chloride | 0.24 mmol, 51 mg | C(CCC)OC1=CC=C(C(=O)Cl)C=C1 | C11H13ClO2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-butoxy-N-(3-(5-phenylbenzo[d]isothiazol-3-ylamino)propyl) benzamide | 13 mg | C(CCC)OC1=CC=C(C(=O)NCCCNC2=NSC3=C2C=C(C=C3)C3=CC=CC=C3)C=C1 | C27H29N3O2S
